US04857530
N-2-Propynyl-4-(trifluoromethoxy)benzenamine
A solution of 8.86 g (50 mmol) of 4-(trifluoromethoxy)benzenamine, 8.18 g (55 mmol) of an 80% solution of 3-bromo-1-propyne in toluene, and 8.72 ml (50 mmol) of N-ethyl-N-(1-methylethyl)-2-propanamine in 200 ml of toluene is heated at 90° C. for eighteen hours. The suspension is cooled and treated with ethyl acetate. The suspension is washed several times with water. The ethyl acetate layer is separated, dried (magnesium sulfate), and concentrated to give a brown liquid. This is applied to a column of 1 kg of flash silica gel packed in n-heptane-dichloromethane (2:1). Elution with the same solvent gives 7.12 g (66.2%) of the product as a brown liquid.

reactant | 4-(trifluoromethoxy)benzenamine | 50 mmol, 8.86 g | FC(OC1=CC=C(C=C1)N)(F)F | C7H6F3NO
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
reactant | N-ethyl-N-(1-methylethyl)-2-propanamine | 50 mmol, 8.72 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-heptane dichloromethane | CCCCCCC.ClCCl
product | N-2-Propynyl-4-(trifluoromethoxy)benzenamine | 7.12 g, 66.2% | C(C#C)NC1=CC=C(C=C1)OC(F)(F)F | C10H8F3NO
